US04699910
3.1. N-(2-Chloro-ethyl)-3-trifluoromethyl-aniline hydrochoride
20.5 g (0.1 mole of N-(2-hydroxy-ethyl)-3-trifluoromethyl-aniline were taken up in 100 ml of absolute methylene chloride, and the solution was cooled to 0° C. At this temperature 14.3 g (0.12 mol) of thionyl chloride were added dropwise. The reaction mixture was allowed to warm to room temperature while stirring, whereupon it was refluxed, while monitoring by chromatography, until the reaction had gone to completion. After the solvent and the residual thionyl chloride had been removed, the crude product thus obtained was used for further reaction.

reactant | N-(2-hydroxy-ethyl)-3-trifluoromethyl-aniline | 0.1 mole | OCCNC1=CC(=CC=C1)C(F)(F)F | C9H10F3NO
reactant | thionyl chloride | 0.12 mol, 14.3 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Chloro-ethyl)-3-trifluoromethyl-aniline hydrochoride | Cl.ClCCNC1=CC(=CC=C1)C(F)(F)F | InChI=1S/C9H9ClF3N.ClH/c10-4-5-14-8-3-1-2-7(6-8)9(11,12)13;/h1-3,6,14H,4-5H2;1H
